US07009056B2
1-Benzyl-3-(5-hydroxymethyl-2-furyl)-1H-indazole
A solution of 1-benzyl-3-(5-methoxycarbonyl-2-furyl)-1H-indazole in THF (150 mL) was added dropwise to a suspension of CaBH4.2THF (3.9 g, 18.23 mmol) in THF (150 mL) at room temperature. The resultant mixture was heated to reflux for 15 h. The reaction mixture was allowed to cool, then poured slowly onto brine. The layers were separated and the aqueous layer was extracted three times with ether. The combined organic material was dried (MgSO4) and concentrated under reduced pressure. The crude product was chromatographed on silica (30–40% EtOAc/cyclohexane) and then recrystallised (ethanol/H2O) to give the product as fine cream needles (1.56 g, 86%): mp 112–112.5° C. (lit. mp 108–109° C.); MS (EI) M+ 304; 1H-NMR (CDCl3) 4.76 (s, 2H), 5.68 (s, 2H), 6.50 (d, 1H, J=3.3 Hz), 6.90 (d, 1H, J=3.3 Hz), 7.21–7.40 (m, 8H), 8.08 (d, 1H, J=8.5 Hz); 13C-NMR (CDCl3) 54.12, 58.53, 108.87, 110.57, 110.59, 122.25, 122.38,122.50, 127.83, 128.00(2C), 128.72, 129.68(2C), 137.14, 137.53, 141.45, 149.52, 154.88; Anal. (C19H16N2O2) C, calcd 74.98; found 74.80, H, calcd 5.30; found 5.28, N, calcd 9.20; found 9.15.

reactant | 1-benzyl-3-(5-methoxycarbonyl-2-furyl)-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OC | C20H16N2O3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-hydroxymethyl-2-furyl)-1H-indazole | 1.56 g, 86% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)CO | C19H16N2O2
